US07544697B2
Under a nitrogen atmosphere, a mixture sodium tert-butoxide (39.0 g, 0.406 mol) and ethanol (135 mL) was stirred for 30 minutes; most of the solid was dissolved. A solution of diethyl oxalate (25.6 mL, 0.189 mol) and 6-chloro-2-hexanone (25.6 mL, 0.189 mol) in ethanol (20 mL) was added over a period of 20 minutes. The reaction was stirred at ambient temperature for one hour, and potassium acetate (28.0 g, 283 mmol) and acetic acid (95 mL of 2 M) were sequentially added. The reaction was cooled to 0° C., and ethylhydrazine oxalate (31.0 g, 208 mmol) was added in one portion. The reaction was allowed to warm to ambient temperature, stirred for two hours, and then concentrated under reduced pressure. Water was added, and the resulting solution was adjusted to pH 11 with the addition of 2 M aqueous sodium carbonate. The mixture was extracted with chloroform; the combined extracts were dried over sodium sulfate, filtered, and concentrated under reduced pressure to provide ethyl 5-(4-chlorobutyl)-1-ethyl-1H-pyrazole-3-carboxylate as a yellow oil that was used without purification.

reactant | sodium tert-butoxide | 0.406 mol, 39.0 g | CC(C)([O-])C.[Na+]
reactant | diethyl oxalate | 0.189 mol, 25.6 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 6-chloro-2-hexanone | 0.189 mol, 25.6 mL | ClCCCCC(C)=O | C6H11ClO
reactant | potassium acetate | 283 mmol, 28.0 g | C(C)(=O)[O-].[K+]
reactant | ethylhydrazine oxalate | 208 mmol, 31.0 g | C(C(=O)O)(=O)O.C(C)NN
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethanol | 135 mL | C(C)O | C2H6O
solvent | acetic acid | 2 M, 95 mL | C(C)(=O)O | C2H4O2
product | ethyl 5-(4-chlorobutyl)-1-ethyl-1H-pyrazole-3-carboxylate | ClCCCCC1=CC(=NN1CC)C(=O)OCC | C12H19ClN2O2
